US07902394B2
(a) Ethyl (2E)-3-(3,4-difluoro-5-hydroxyphenyl)-2-propenoate
A second 1 L round-bottomed flask was charged with a stir bar, 5-bromo-2,3-difluorophenol (50.2 g, 240 mmol) and propionitrile (460 mL). The solution was deoxygenated by bubbling nitrogen for 15 minutes. To this solution was added Pd(OAc)2 (5.42 g, 24.1 mmol), P(O-tol)3 (29.3 g, 96.1 mmol), ethyl acrylate (52 mL, 480 mmol) and diisopropylethylamine (167 mL, 959 mmol) sequentially. The flask was immersed into a preheated (120° C.) oil bath. The reaction was heated at this temperature for 22 h. Upon cooling to room temperature, the reaction mixture was filtered through a Celite-plugged filter frit, washed with CH2Cl2, and concentrated.

reactant | 5-bromo-2,3-difluorophenol | 240 mmol, 50.2 g | BrC=1C=C(C(=C(C1)O)F)F | C6H3BrF2O
reactant | P(O-tol)3 | 96.1 mmol, 29.3 g | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
reactant | ethyl acrylate | 480 mmol, 52 mL | C(C=C)(=O)OCC | C5H8O2
reactant | diisopropylethylamine | 959 mmol, 167 mL | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | Pd(OAc)2 | 24.1 mmol, 5.42 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | propionitrile | 460 mL | C(CC)#N | C3H5N
product | Ethyl (2E)-3-(3,4-difluoro-5-hydroxyphenyl)-2-propenoate | FC=1C=C(C=C(C1F)O)/C=C/C(=O)OCC | C11H10F2O3
